US06699868B2
(R)-6-{4-[N′-(4-Hydroxy-3-methoxy-2-nitro-benzylidene)-hydrazino]-phenyl }-5-methyl-4,5-dihydro-2H-pyridazin-3-one
A solution of 4-hydroxy-3-methoxy-2-nitro-benzaldehyde (1.6 g) in ethanol (15 ml) was added to a suspension of (R)-6-(4-hydrazino-phenyl)-5-methyl-4,5-dihydro-2H-pyridazin-3-one (1.75 g) in ethanol (20 ml) and the resulting mixture refluxed for two hours. The resulting crystals were filtered at room temperature and washed with ethanol. Yield 2.37 g. HPLC: purity 99.4%, optical purity 99.8%.

reactant | 4-hydroxy-3-methoxy-2-nitro-benzaldehyde | 1.6 g | OC1=C(C(=C(C=O)C=C1)[N+](=O)[O-])OC | C8H7NO5
reactant | (R)-6-(4-hydrazino-phenyl)-5-methyl-4,5-dihydro-2H-pyridazin-3-one | 1.75 g | N(N)C1=CC=C(C=C1)C=1[C@@H](CC(NN1)=O)C | C11H14N4O
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | (R)-6-{4-[N′-(4-Hydroxy-3-methoxy-2-nitro-benzylidene)-hydrazino]-phenyl }-5-methyl-4,5-dihydro-2H-pyridazin-3-one | OC1=C(C(=C(C=NNC2=CC=C(C=C2)C=2[C@@H](CC(NN2)=O)C)C=C1)[N+](=O)[O-])OC | C19H19N5O5
